US07417066B2
5-(4-tert-Butylbenzenesulfonylamino)-3-phenyl-1 -benzothiophene-2-carboxylic acid-(tetrahydropyran-4-yl)amide
According to Step 1, after reaction of 5-(4-tert-Butylbenzenesulfonylamino)-3-phenyl-1-benzothiophene-2-carboxylic acid (155 mg, 0.33 mmol) with 4-aminotetrahydropyrane (22 mg, 0.35 mmol), the desired compound is obtained at 50% yield (92 mg).

reactant | 5-(4-tert-Butylbenzenesulfonylamino)-3-phenyl-1-benzothiophene-2-carboxylic acid | 0.33 mmol, 155 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC=1C=CC2=C(C(=C(S2)C(=O)O)C2=CC=CC=C2)C1 | C25H23NO4S2
reactant | 4-aminotetrahydropyrane | 0.35 mmol, 22 mg | NC1CCOCC1 | C5H11NO
product | 5-(4-tert-Butylbenzenesulfonylamino)-3-phenyl-1 -benzothiophene-2-carboxylic acid-(tetrahydropyran-4-yl)amide | 50% yield | O1CCC(CC1)NC(=O)C=1SC2=C(C1C1=CC=CC=C1)C=C(C=C2)NS(=O)(=O)C2=CC=C(C=C2)C(C)(C)C | C30H32N2O4S2
